ECG
*SPICE Netlist generated by Advanced Sim server on 26/01/2018 17:34:21

*Schematic Netlist:
V4 Net4_1 0 DC 0 SIN(0 1 1KHz 0 0 0) AC 1 0
C2 NetC2_1 Net4_1 100pF
R3 0 NetC2_1 1K

.SAVE Net2_1 Net4_1 NetC1_2 NetC2_1 @R3[p] @V4[p]

*PLOT TRAN -1 1 A=@R3[p] A=@V4[p]
.PROBE TRAN  NetC2_1 Net4_1 NetC1_2 Net2_1
*PLOT OP -1 1 A=@R3[p] A=@V4[p]
.PROBE OP  NetC2_1 Net4_1 NetC1_2 Net2_1

*Selected Circuit Analyses:
.TRAN 2E-5 0.005 0 2E-5
.OP

.END
